US07888366B2
Sodium borohydride (280 mg, 7.4 mmol) was added in portions to a solution of 3-quinoline-carboxaldehyde (1.06 g, 6.7 mmol) in methanol at room temperature. Reaction was quenched after 3 hours stirring with 10 mL (aq) sat. NH4Cl. Mixture was extracted with ethyl acetate (3×30 ml). Combined organics were washed with brine and dried over MgSO4. Crude material was purified by chromatography using (20-40% EA/Hex gradient) to afford quinolin-8-yl-methanol as an off white solid (800 mg; 75% yield).

reactant | Sodium borohydride | 7.4 mmol, 280 mg | [BH4-].[Na+]
reactant | 3-quinoline-carboxaldehyde | 6.7 mmol, 1.06 g | N1=CC(=CC2=CC=CC=C12)C=O | C10H7NO
reactant | methanol | CO | CH4O
product | quinolin-8-yl-methanol | 75% yield | N1=CC=CC2=CC=CC(=C12)CO | C10H9NO
